US07038087B2
Synthesis of (S,S)-2-hydroxycyclopentanecarboxylic Hydrazide
To a 50-mL four-necked flask were added 2.33 g (16.2 mmol) of methyl (S,S)-2-hydroxycyclopentanecarboxylate and 9.3 ml of 2-propanol and stirring was started. Hydrazine monohydrate (1.62 g; (32.3 mmol) was dropped thereinto at 23° C. taking 30 minutes. After the dropping, the mixture was stirred at 85° C. for 15 hours. Followed by, heating was stopped and the mixture was cooled down to room temperature to precipitate the crystals. The crystals were filtered and washed with a small amount of 2-propanol. The resulting crystals were dried to give 1.50 g of the title compound. The yield was 63%. Ratio of anti-form to syn-form of the compound was measured by the same manner as in Example 4 and found that the anti/syn ratio was more than 99/1.

reactant | methyl (S,S)-2-hydroxycyclopentanecarboxylate | 16.2 mmol, 2.33 g | O[C@@H]1[C@H](CCC1)C(=O)OC | C7H12O3
reactant | Hydrazine monohydrate | O.NN
solvent | 2-propanol | 9.3 ml | CC(C)O | C3H8O
product | (S,S)-2-hydroxycyclopentanecarboxylic Hydrazide | 1.50 g, yield was 63% | O[C@@H]1[C@H](CCC1)C(=O)NN | C6H12N2O2
